US20010016661A1
A solution of 4,5,7-trifluoro-2-methylbenzothiazole (25.0 g, 123 mmol) in ethylene glycol (310 mL, 0.4 M) and 30% aq. NaOH (310 mL, 0.4 M) was degassed using a nitrogen stream then heated to a gentle reflux (125° C.) for 3 h. The solution was cooled to 0° C. and acidified to pH 3-4 using conc. HCl (appox. 200 mL). The solution was extracted with ether (750 mL) and washed with water (200 mL). The organic layer was dried over Na2SO4, filtered and treated with 2,2-di-tert-butyl-4-methylphenol (0.135 g, 0.5 mol%). After concentrating to dryness, the crude product was dissolved in anhydrous methanol (200 mL) and treated with an HCl solution in 1,4-dioxane (37 mL, 4 N, 148 mmol). The resulting mixture was concentrated to dryness, triturated with isopropylether (100 mL) and filtered to give 2-amino-3,4,6-trifluorothiophenol hydrochloride (19.3 g, 73%) as a light brown solid that was used without further purification. mp. 121-124 C; Rf 0.43 (30% ethyl acetate in heptane); Anal. Calcd for C6H5ClF3NS: C, 33.42; H, 2.34; N, 6.50; S, 14.87. Found C, 33.45; H, 2.27; N, 6.48; S, 14.96.

reactant | 4,5,7-trifluoro-2-methylbenzothiazole | 123 mmol, 25.0 g | FC1=C(C=C(C2=C1N=C(S2)C)F)F | C8H4F3NS
reactant | HCl | 200 mL | Cl | ClH
reactant | 1,4-dioxane | 148 mmol, 4 N, 37 mL | O1CCOCC1 | C4H8O2
solvent | ethylene glycol | 0.4 M, 310 mL | C(CO)O | C2H6O2
solvent | NaOH | 0.4 M, 310 mL | [OH-].[Na+]
product | 2-amino-3,4,6-trifluorothiophenol hydrochloride | 19.3 g, 73% | Cl.NC1=C(C(=CC(=C1F)F)F)S | InChI=1S/C6H4F3NS.ClH/c7-2-1-3(8)6(11)5(10)4(2)9;/h1,11H,10H2;1H
